US04409214
Ethyl 2-(4-tert-butoxycarbonylaminothiazol-2-yl)acetate (5.1 g) was added to a solution of selenium dioxide (2.96 g) in dioxane (60 ml) and water (2 ml) at 110° C. and stirred for 4.5 hours at 110° C. The mixture was evaporated and the residue was dissolved in ethyl acetate and water. The separated ethyl acetate layer was washed with an aqueous sodium chloride and dried over magnesium sulfate. After removing the solvent, the residue was subjected to column chromatography on silica gel and eluted with methylene chloride. The fraction containing an object compound was evaporated to give ethyl (4-tert-butoxycarbonylaminothiazol-2-yl)glyoxylate (4.2 g).

reactant | Ethyl 2-(4-tert-butoxycarbonylaminothiazol-2-yl)acetate | 5.1 g | C(C)(C)(C)OC(=O)NC=1N=C(SC1)CC(=O)OCC | C12H18N2O4S
reactant | selenium dioxide | 2.96 g | [Se](=O)=O | O2Se
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | ethyl (4-tert-butoxycarbonylaminothiazol-2-yl)glyoxylate | 4.2 g | C(C)(C)(C)OC(=O)NC=1N=C(SC1)C(C(=O)OCC)=O | C12H16N2O5S
